US03932411
5-{3-[4-(2-ethoxybenzyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(2-ethoxybenzyl)-piperazine; yield 64.3% of theory; m.p. of the dihydrochloride (recrystallized from ethanol) 223°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(2-ethoxybenzyl)-piperazine | ClCCCN1CCN(CC1)CC1=C(C=CC=C1)OCC | C16H25ClN2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 5-{3-[4-(2-ethoxybenzyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 64.3% | C(C)OC1=C(CN2CCN(CC2)CCCOC2=C3CCCC(C3=CC=C2)=O)C=CC=C1 | C26H34N2O3
